US07495110B2
3,4,5-trimethoxybenzoyl isothiocyanate
Potassium thiocyanate is added to a solution of 3,4,5-trimethoxybenzoylchloride (2.3 g) in acetonitrile (40 ml). After stirring for 15 minutes at approximately 20° C., the mixture is filtered and the filtrate is concentrated under reduced pressure in order to produce the expected compound in the form of a beige powder (2.4 g, 96% yield). Melting point=101° C.

reactant | Potassium thiocyanate | [S-]C#N.[K+]
reactant | 3,4,5-trimethoxybenzoylchloride | 2.3 g | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 3,4,5-trimethoxybenzoyl isothiocyanate | COC=1C=C(C(=O)N=C=S)C=C(C1OC)OC | C11H11NO4S
